US07723331B2
c) tert-Butyl 4-(3-{[6-(4-chlorophenyl)-4-oxothieno[3,2-d]pyrimidin-3(4H)-yl]methyl}phenoxy)piperidine-1-carboxylate
Methyl 5-(4-chlorophenyl)-3-{[(1E)-(dimethylamino)methylene]amino}thiophene-2-carboxylate (522 mg, 1.62 mmol) and tert-butyl 4-[3-(aminomethyl)phenoxy]piperidine-1-carboxylate (544 mg, 1.78 mmol) were dissolved in MeOH (10 ml). The mixture was heated in a microwave for 30 minutes at 120° C. A precipitate was formed from MeOH. The precipitate was filtered off and washed with MeOH yielding the title compound as a white solid. Yield: 431 mg (48%). 1H NMR (400 MHz, CDCl3) δ 8.11 (s, 1H), 7.63 (m, 2H), 7.47 (s, 1H), 7.43 (m, 2H), 7.30-7.25 (m, 1H), 6.95-6.91 (m, 2H), 6.86 (m, 1H), 5.19 (s, 2H), 4.46 (m, 1H), 3.67 (m, 2H), 3.33 (m, 2H), 1.94-1.85 (m, 2H), 1.77-1.67 (m, 2H), 1.54 (s, 9H).

reactant | Methyl 5-(4-chlorophenyl)-3-{[(1E)-(dimethylamino)methylene]amino}thiophene-2-carboxylate | 1.62 mmol, 522 mg | ClC1=CC=C(C=C1)C1=CC(=C(S1)C(=O)OC)/N=C/N(C)C | C15H15ClN2O2S
reactant | tert-butyl 4-[3-(aminomethyl)phenoxy]piperidine-1-carboxylate | 1.78 mmol, 544 mg | NCC=1C=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C17H26N2O3
solvent | MeOH | 10 ml | CO | CH4O
product | tert-Butyl 4-(3-{[6-(4-chlorophenyl)-4-oxothieno[3,2-d]pyrimidin-3(4H)-yl]methyl}phenoxy)piperidine-1-carboxylate | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)CC=1C=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C29H30ClN3O4S
